US07223769B2
In 4 ml of tetrahydrofuran was suspended 0.11 g of sodium hydride (60% in oil), to which 0.5 ml of a solution containing 0.16 g of 2-methyl-2-propenol in tetrahydrofuran was added dropwise at 0° C., followed by stirring for 10 minutes. To this was added dropwise 0.5 ml of a solution containing 0.4 g of 4-(2-butynyloxy)-6-chloropyrimidine in tetrahydrofuran, followed by stirring at the same temperature for 2 hours. The reaction mixture was then poured into a saturated aqueous ammonium chloride solution, which was extracted three times with t-butyl methyl ether. The combined organic layers were washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 0.15 g of 4-(2-butynyloxy)-6-(2-methylallyloxy)pyrimidine.

reactant | sodium hydride | 0.11 g | [H-].[Na+]
reactant | 2-methyl-2-propenol | 0.16 g | CC(CO)=C | C4H8O
reactant | 4-(2-butynyloxy)-6-chloropyrimidine | 0.4 g | C(C#CC)OC1=NC=NC(=C1)Cl | C8H7ClN2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 4-(2-butynyloxy)-6-(2-methylallyloxy)pyrimidine | 0.15 g | C(C#CC)OC1=NC=NC(=C1)OCC(=C)C | C12H14N2O2
